Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Incarcerated right inguinal hernia 
 
Major Surgical or Invasive Procedure:
___: Right inguinal hernia repair, laparoscopic 
exploration, mini-laparotomy.
 
History of Present Illness:
___ noticed inguinal bulging about six months ago, which 
progressed to a right side groin bulge more recently. He denies 
having any discomfort there until three AM this morning, when he 
was awoken by the pain, which was severe. He felt like having a 
BM but did not have it. The abdomen became more tender diffusely 
over the following few hours. He has never had pain like this
before. He presented to the ED this AM due to this pain. His 
wife incidentally was scheduled to have brain aneurysm surgery 
today and is currently undergoing surgery here at ___. He 
denies fevers/chills. He denies blood in his stool. He endorses 
nausea but denies emesis.  

 
Past Medical History:
PMH: HTN, HLD

PSH: Appendectomy at age ___, facial SCC excision, R knee surgery
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: T: 98.1 PO BP: 120/76 L Lying HR: 82 RR: 18 O2: 93% Ra 
GEN: A+Ox3, NAD
HEENT: atraumatic
CV: RRR
PULM: no respiratory distress, breathing comfortably on room air
ABD: soft, mildly distended, appropriate incisional tenderness, 
no guarding. Midline abdominal and right groin incisions with 
dermabond, wounds well-approximated.  Midline abdominal wound 
with bruising, no s/s infection of either incision. 
EXT: no edema b/l
 
Pertinent Results:
IMAGING:

___: CT Abdomen/Pelvis:
1. Closed loop obstruction of a short segment of ileum within a 
right direct inguinal hernia with small amount of fluid in the 
hernia sac and evidence of upstream small-bowel obstruction.  No 
specific evidence for ischemia. 
2. Left inguinal hernia containing partial wall of the sigmoid 
colon (Richter type hernia) without evidence of complications. 
3. Minimally displaced subacute fractures of right transverse 
processes of L2, L3 and L4. 
4. Right posterolateral urinary bladder diverticulum measuring 
5.2 cm. 
5. Moderate prostatomegaly. 
6. Abdominal aortic ectasia measuring up to 2.6 cm. 
7. Moderate hiatal hernia. 

LABS:

___ 10:30AM   LACTATE-2.8*
___ 10:20AM   GLUCOSE-178* UREA N-19 CREAT-0.8 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-97 TOTAL CO2-25 ANION GAP-15
___ 10:20AM   WBC-9.1 RBC-6.00 HGB-17.1 HCT-51.9* MCV-87 
MCH-28.5 MCHC-32.9 RDW-13.2 RDWSD-40.3
___ 10:20AM   NEUTS-84.4* LYMPHS-8.2* MONOS-5.8 EOS-0.9* 
BASOS-0.4 IM ___ AbsNeut-7.70* AbsLymp-0.75* AbsMono-0.53 
AbsEos-0.08 AbsBaso-0.04
___ 10:20AM   PLT COUNT-183
___ 10:20AM   ___ PTT-28.4 ___
___ 10:20AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:20AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:20AM URINE  MUCOUS-RARE*
 
Brief Hospital Course:
Mr. ___ is a ___ w/ history of right inguinal hernia, who 
presented to ___ this admission with abdominal pain.  He had a 
CT A/P which showed a closed loop obstruction within a right 
direct inguinal hernia, as well as a moderate hiatal hernia. The 
patient was taken to the operating room where he underwent right 
inguinal hernia repair, laparoscopic exploration, and 
mini-laparotomy.  This procedure went well (reader, please refer 
to operative note for further details).  After remaining 
hemodynamically stable in the PACU, the patient was transferred 
to the surgical floor.  The patient was advanced to a regular 
diet which he tolerated and IVF were discontinued.  Pain was 
managed with acetaminophen.  The patient ambulated without 
issue.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Lisinopril 20 mg daily, ASA 81, Vit D

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO DAILY  
3.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incarcerated right inguinal hernia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with bowel entrapment within 
your right groin hernia.  You were taken to the operating room 
and underwent exploratory laparotomy and repair of your right 
groin hernia.  This procedure went well.  You are now tolerating 
a regular diet and your pain is controlled with oral pain 
medication.  You are now ready to be discharged home to continue 
your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*You have a glue type of dressing, called Dermabond, over your 
incisions.  This glue will flake off on its own over the next 
___ weeks. 
 
Followup Instructions:
___